US06008418
The present invention relates to a process for preparing 1,6-hexanediol having a purity of at least 99% which is, in particular, essentially free of 1,4-cyclohexanediols, from a carboxylic acid mixture which is obtained in the oxidation of cyclohexane to cyclohexanone/cyclohexanol using oxygen or oxygen-containing gases by water extraction of the reaction mixture, by esterification of the acids, fractionation of the esterification mixture into an ester fraction free of 1,4-cyclohexanediols and a fraction comprising the 1,4-cyclohexanediols, hydrogenation of the ester fraction and purification of the 1,6-hexanediol by distillation.

reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | cyclohexanone cyclohexanol | C1(CCCCC1)=O.C1(CCCCC1)O | InChI=1S/C6H12O.C6H10O/c2*7-6-4-2-1-3-5-6/h6-7H,1-5H2;1-5H2
